US07342027B2
Preparation of 4-[N-[1-[N-(4-fluorobenzoyl)amino]cyclohexanecarbonyl]amino]-1-[2-(cyclopropylamino)phenyl]piperidin-3-one
In accordance with the same procedure as in Example 87, except that 4-[N-[1-[N-(4-fluorobenzoyl)amino]cyclohexanecarbonyl]amino]-1-(4-fluoro-2-aminophenyl)piperidin-3-ol was used instead of 4-[N-[1-[N-(furan-2-ylcarbonyl)amino]cyclohexanecarbonyl]amino]-1-(4-fluoro-2-aminophenyl)piperidin-3-ol and cyclopropylcarbonyl chloride was used instead of methoxyacetyl chloride in Step 3 thereof, 1.5 g of the titled compound was prepared.

reactant | 4-[N-[1-[N-(4-fluorobenzoyl)amino]cyclohexanecarbonyl]amino]-1-(4-fluoro-2-aminophenyl)piperidin-3-ol | FC1=CC=C(C(=O)NC2(CCCCC2)C(=O)NC2C(CN(CC2)C2=C(C=C(C=C2)F)N)O)C=C1 | C25H30F2N4O3
reactant | cyclopropylcarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | 4-[N-[1-[N-(4-fluorobenzoyl)amino]cyclohexanecarbonyl]amino]-1-[2-(cyclopropylamino)phenyl]piperidin-3-one | 1.5 g | FC1=CC=C(C(=O)NC2(CCCCC2)C(=O)NC2C(CN(CC2)C2=C(C=CC=C2)NC2CC2)=O)C=C1 | C28H33FN4O3
